US08466167B2
A solution of tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-ylcarbamate (1.0 eq.) and 3-bromopicolinonitrile (1.0 eq.), tetrakis(triphenyl-phosphine)palladium (5 mol %), and 2N aqueous sodium carbonate solution (2.0 eq.) in toluene/ethanol (2:1, 0.03 M) was stirred at 100° C. overnight. After cooling to ambient temperature, the reaction content was diluted with methanol. The insoluble solids were filtered off, and the filtrate was concentrated en vacuo to obtain a crude residue. The crude product was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-80% ethyl acetate in hexane to give pyrido[3,2-f][1,7]naphthyridin-6-amine as a white solid. 1H NMR (dmso-d6): δ 9.14 (dd, 1H), 8.98 (dd, 1H), 8.90 (dd, 1H), 7.93 (dd, 1H), 7.60 (bs, 2H), 7.30 (dd, 1H). LRMS [M+H]=197.

reactant | tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-ylcarbamate | 1.0 eq. | CC1(OB(OC1(C)C)C=1C(=NC=CC1)NC(OC(C)(C)C)=O)C | C16H25BN2O4
reactant | 3-bromopicolinonitrile | 1.0 eq. | BrC=1C(=NC=CC1)C#N | C6H3BrN2
reactant | sodium carbonate | 2N, 2.0 eq. | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol | 0.03 M | C1(=CC=CC=C1)C.C(C)O
solvent | methanol | CO | CH4O
product | pyrido[3,2-f][1,7]naphthyridin-6-amine | C1=CC=NC=2C1=C1C=CC=NC1=C(N2)N | C11H8N4
